US08067408B2
To a suspension of 2-bromo-4-methylbenzoic acid (15.0 g, 69.8 mmol) in toluene (60 mL), thionyl chloride (10.3 mL) and DMF (0.10 mL) were added and stirred at 50° C. for 3 h. After cooled to room temperature, the excess thionyl chloride was removed in vacuo. The residue was dissolved in toluene (50 mL), and the mixture was added to the solution of ammonia (25%, 60 mL). The white precipitate was filtered over Celite and dried in vacuo to afford 2-bromo-4-methylbenzamide (14.8 g, 99%).

reactant | 2-bromo-4-methylbenzoic acid | 69.8 mmol, 15.0 g | BrC1=C(C(=O)O)C=CC(=C1)C | C8H7BrO2
reactant | DMF | 0.10 mL | CN(C)C=O | C3H7NO
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 10.3 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-bromo-4-methylbenzamide | 14.8 g, 99% | BrC1=C(C(=O)N)C=CC(=C1)C | C8H8BrNO
